US05681832
8-Hydroxyquinoline-5-sulfonic acid monohydriate (0.015 mol, 3.65 g), hexamethylenetetramine (0.225 mol, 21.0 g) and acetic acid (750 mL) were stirred and heated at 97°-100° C. for 6 hrs. After cooling, acetic acid was removed under reduced pressure, and the residue was treated with acetone (1 L) to give a precipitate which was filtered off and washed with additional acetone. Water (30 mL) and concentrated hydrochloric acid (15 mL) were then added to the solid. The resulting solution was refluxed for 2 hours. Then, the mixture was concentrated under reduced pressure and left for crystallization. The solid was filtered off, washed with water and dried to give pure 7-formyl-8-hydroxyquinoline-5-sulfonic acid in 45% yield.

reactant | 8-Hydroxyquinoline-5-sulfonic acid | 0.015 mol, 3.65 g | OC1=CC=C(C=2C=CC=NC12)S(=O)(=O)O | C9H7NO4S
reactant | hexamethylenetetramine | 0.225 mol, 21.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 750 mL | C(C)(=O)O | C2H4O2
product | 7-formyl-8-hydroxyquinoline-5-sulfonic acid | 45% yield | C(=O)C=1C=C(C=2C=CC=NC2C1O)S(=O)(=O)O | C10H7NO5S
